US05401775
In 30 ml of ethanol was dissolved 10.8 g of 4-dimethylamino-2-(3,4,5-trimethoxyphenyl)butyramide, followed by addition of a mixture of concentrated hydrochloric acid (3 ml) and ethanol (27 ml). The mixture was stirred at a room temperature for 2 hours. The resulting precipitate was recovered by filtration and dried under reduced pressure to provide 12.2 g of 4-dimethylamino-2-(3,4,5-trimethoxyphenyl)butyramide hydrochloride.

reactant | 4-dimethylamino-2-(3,4,5-trimethoxyphenyl)butyramide | 10.8 g | CN(CCC(C(=O)N)C1=CC(=C(C(=C1)OC)OC)OC)C | C15H24N2O4
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 27 ml | C(C)O | C2H6O
product | 4-dimethylamino-2-(3,4,5-trimethoxyphenyl)butyramide hydrochloride | 12.2 g | Cl.CN(CCC(C(=O)N)C1=CC(=C(C(=C1)OC)OC)OC)C | InChI=1S/C15H24N2O4.ClH/c1-17(2)7-6-11(15(16)18)10-8-12(19-3)14(21-5)13(9-10)20-4;/h8-9,11H,6-7H2,1-5H3,(H2,16,18);1H
